US04167567
In the manner given in Example 5, a mixture of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine, 4-chloro-2-methoxypyridine and triethylamine is heated in ethylene glycol at 80° C. to give 1-(2-methoxypyridin-4-yl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | 4-chloro-2-methoxypyridine | ClC1=CC(=NC=C1)OC | C6H6ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-(2-methoxypyridin-4-yl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | COC1=NC=CC(=C1)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C27H24F3N5O2
